US03952104
A solution of 6.2 parts of 6,8-diallyl-4-oxo-4H-1-benzopyran-2-carboxylic acid in 100 parts of ethanol was hydrogenated at room temperature for 45 minutes at a pressure of 45 p.s.i. at the presence of 5% palladised charcoal. The solution was filtered and evaporated to afford 6.1 parts of 6,8-di-n-propyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, melting point 183°-184° C after recrystallisation from a mixture of ethyl acetate and petroleum ether (b.p. 60°-80° C).

reactant | 6,8-diallyl-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(C=C)C=1C=C(C2=C(C(C=C(O2)C(=O)O)=O)C1)CC=C | C16H14O4
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 6,8-di-n-propyl-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(CC)C=1C=C(C2=C(C(C=C(O2)C(=O)O)=O)C1)CCC | C16H18O4
